US07598244B2
(S)-(−)-1-(4-methoxyphenyl)ethylamine (321 mg) was dissolved in isopropanol (6 ml). Thereafter, diphenyl N-cyanocarbonimidate (508 mg) was added to the solution, and the obtained mixture was stirred at a room temperature for 2 hours. The precipitated crystals were collected by filtration, and the collected crystals were then washed with isopropyl ether to obtain (S)-1-cyano-3-[1-(4-methoxyphenyl)ethyl]-2-phenyl isourea (339 mg).

reactant | (S)-(−)-1-(4-methoxyphenyl)ethylamine | 321 mg | COC1=CC=C(C=C1)[C@H](C)N | C9H13NO
reactant | diphenyl N-cyanocarbonimidate | 508 mg | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
solvent | isopropanol | 6 ml | C(C)(C)O | C3H8O
product | (S)-1-cyano-3-[1-(4-methoxyphenyl)ethyl]-2-phenyl isourea | 339 mg | C(#N)NC(OC1=CC=CC=C1)=N[C@@H](C)C1=CC=C(C=C1)OC | C17H17N3O2
